US04399134
In a 200 ml stainless steel autoclave were placed 10 g of 9-fluoro-8-bromo-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, 12.8 g of morpholine and 80 ml of hexamethylphosphoric triamide and the mixture was reacted at 160° C. on an oil bath. After 7 hours, the temperature of the autoclave was lowered to room temperature and disappearance of the starting materials was confirmed by thin layer chromatography. Then, the reaction mixture was transferred from the autoclave to a 300 ml Erlenmeyer flask to which ethyl acetate was added and the resulting mixture was allowed to stand for 1 day. The crystals which formed were collected by filtration and recrystallized from dimethylformamide to give 4 g of 9-fluoro-8-morpholino-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid. m.p. 279°-280° C., white rhombic crystals.

reactant | 9-fluoro-8-bromo-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 10 g | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)Br | C14H11BrFNO3
reactant | morpholine | 12.8 g | N1CCOCC1 | C4H9NO
reactant | hexamethylphosphoric triamide | 80 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-fluoro-8-morpholino-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 4 g | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)N1CCOCC1 | C18H19FN2O4
